US04788206
As described in Example 99, (Z)-3-(4-methoxyphenyl)-2-octenal (5.5 g) was treated with (carbomethoxymethylene)triphenylphosphorane (8.7 g) in carbon tetrachloride (55 mL) for 4 days at room temperature. The mixture was isolated in the usual way and purified by HPLC (ether-hexane; 3:17) to afford 3.6 g of (2E,4E)-5-(4-methoxyphenyl)-2,4-decadienoic acid methyl ester as an oil.

reactant | (Z)-3-(4-methoxyphenyl)-2-octenal | 5.5 g | COC1=CC=C(C=C1)\C(=C/C=O)\CCCCC | C15H20O2
reactant | (carbomethoxymethylene)triphenylphosphorane | 8.7 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | carbon tetrachloride | 55 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (2E,4E)-5-(4-methoxyphenyl)-2,4-decadienoic acid methyl ester | 3.6 g | COC(\C=C\C=C(/CCCCC)\C1=CC=C(C=C1)OC)=O | C18H24O3
